US06297197B1
A. Methyl 3-Bromo-4-chloropyridine-2-carboxylate
To a solution of 3-bromo-4-chloropyridine-2-carboxylic acid (1.75 g, 7.4 mmol) in MeOH was added anhydrous HCl. The resulting mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated to give a solid, which was partitioned between Et2O and saturated NaHCO3. Organic layer was dried over MgSO4, filtered and concentrated to give a brown residue. This material was purified via flash column chromatography to yield 1.35 g of product as a pale yellow oil.

reactant | 3-bromo-4-chloropyridine-2-carboxylic acid | 7.4 mmol, 1.75 g | BrC=1C(=NC=CC1Cl)C(=O)O | C6H3BrClNO2
reactant | HCl | Cl | ClH
reactant | MeOH | CO | CH4O
product | Methyl 3-Bromo-4-chloropyridine-2-carboxylate | 1.35 g | BrC=1C(=NC=CC1Cl)C(=O)OC | C7H5BrClNO2
